US03997535
3(2-Hydroxyethoxy)N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide
3-(2-Methoxyethoxy)-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide, m.p. 246°-247°, from 2-methoxyethanol (85%).

reactant | 3-(2-Methoxyethoxy)-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide | COCCOC=1C(=NC2=CC=CC=C2N1)C(=O)NC1=NN=NN1 | C13H13N7O3
solvent | 2-methoxyethanol | COCCO | C3H8O2
product | 3(2-Hydroxyethoxy)N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide | OCCOC=1C(=NC2=CC=CC=C2N1)C(=O)NC1=NN=NN1 | C12H11N7O3
